US09085517B2
4-[(5-chloro-6-isopropoxypyridin-3-yl)methoxy]-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide
To 4-((5-chloro-6-isopropoxypyridin-3-yl)methoxy)-2,5-difluorobenzoic acid (Preparation 9, 0.05 g, 0.14 mmol) in solution in DCM (5 mL) is added WSCDI (0.04 g, 0.21 mmol), DMAP (0.026 g, 0.21 mmol) and N-ethyl-N-isopropylpropan-2-amine (0.09 mL, 0.42 mmol). After 10 minutes was added N,N-dimethylsulfamide (0.026 g, 0.21 mmol) and the reaction was left at room temperature for 18 hours. The reaction mixture was concentrated in vacuo and purified using reverse phase preparative HPLC to afford the title compound.

reactant | 4-((5-chloro-6-isopropoxypyridin-3-yl)methoxy)-2,5-difluorobenzoic acid | 0.14 mmol, 0.05 g | ClC=1C=C(C=NC1OC(C)C)COC1=CC(=C(C(=O)O)C=C1F)F | C16H14ClF2NO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.42 mmol, 0.09 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N,N-dimethylsulfamide | 0.21 mmol, 0.026 g | CN(S(=O)(=O)N)C | C2H8N2O2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.21 mmol, 0.026 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-[(5-chloro-6-isopropoxypyridin-3-yl)methoxy]-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | ClC=1C=C(C=NC1OC(C)C)COC1=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C1F)F | C18H20ClF2N3O5S
